US09062070B2
3-Ethenyl-2,6-difluorobenzonitrile (1.70 g, 10.3 mmol) was added to DCM (10 mL) at 0° C. Then mCPBA (5.33 g, 30.9 mmol) was added and the mixture was stirred at RT for 48 h. The reaction mixture was washed with saturated aqueous Na2S2O3, then with 1N NaOH, and brine. The organic layer was separated and dried over Na2SO4, filtered, and evaporated to dryness. The crude product was purified by MPLC chromatography through a 120 g Redi-sep column, eluting with a 0-100% EtOAc/hexane solvent system. 2,6-Difluoro-3-(oxiran-2-yl)benzonitrile was isolated.

reactant | 3-Ethenyl-2,6-difluorobenzonitrile | 10.3 mmol, 1.70 g | C(=C)C=1C(=C(C#N)C(=CC1)F)F | C9H5F2N
reactant | mCPBA | 30.9 mmol, 5.33 g | C1=CC(=CC(=C1)Cl)C(=O)OO | C7H5ClO3
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
product | 2,6-Difluoro-3-(oxiran-2-yl)benzonitrile | FC1=C(C#N)C(=CC=C1C1OC1)F | C9H5F2NO
